US05213972
Strain CMG1115 (see Table 4 above) can be modified to a genotype additionally including tdk+ (thymidine kinase) and thyA- (thymidylate synthase negative) in order to produce deoxyuridine in accordance with the present invention. Such a modified strain derived from strain CMG1115 (containing pCG144), is streaked on LB agar plates with 100 ug/mL ampicillin and 50 mg/ml thymidine and grown at 30° C. Single colonies are picked into 25 mL of LB broth with 100 μg/ml ampicillin in a 250 mL baffle flask and incubated at 30° C. for 8 hours. This culture (0.5 mL) is then used to seed flasks with production media with the composition presented in Table 11.

reactant | thymidine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C(C)=C1 | C10H14N2O5
reactant | thymidylate | CC1=CN(C(=O)NC1=O)[C@H]2C[C@@H]([C@H](O2)COP(=O)(O)O)O | C10H15N2O8P
product | deoxyuridine | [C@@H]1(C[C@H](O)[C@@H](CO)O1)N1C(=O)NC(=O)C=C1 | C9H12N2O5
